US04059433
A solution of 9.5 g of phenyl (4-cyano-3-ethoxy-5-isothiazolyl)carbamate in 45 ml of dimethylformamide was placed in a pressure bottle; and while being stirred, was cooled below 0°. A total of 3.7 g of dimethylamine was collected in a dropping funnel by condensing the gas in a dry-ice trap. The liquified amine was added to the pressure bottle, and the bottle sealed. The contents of the bottle were allowed to warm to ambient temperature, then heated at 80° while being stirred overnight. The bottle was cooled to 5° and opened. The reaction mixture was evaporated to dryness under reduced pressure to give a brown solid. This solid was recrystallized from ethanol to give 5.9 g of 1,1-dimethyl-3-(4-cyano-3-ethoxy-5-isothiazolyl)urea, m.p. 204°-205°. The nmr spectrum was consistent with the assigned structure.

reactant | phenyl (4-cyano-3-ethoxy-5-isothiazolyl)carbamate | 9.5 g | C(#N)C=1C(=NSC1NC(OC1=CC=CC=C1)=O)OCC | C13H11N3O3S
reactant | dimethylformamide | 45 ml | CN(C=O)C | C3H7NO
product | 1,1-dimethyl-3-(4-cyano-3-ethoxy-5-isothiazolyl)urea | 5.9 g | CN(C(=O)NC1=C(C(=NS1)OCC)C#N)C | C9H12N4O2S
